US06194487B1
Next, the 1,6-diaminohexane vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 3 minutes. Consequently, a polymerization reaction between 1,4-butanedisulfonyl chloride and 1,6-diaminohexane took place on the surface of the base particles, forming a film of 1,4-butanedisulfonylchloride-1,6-diaminohexane co-polymer.

reactant | 1,6-diaminohexane | NCCCCCCN | C6H16N2
reactant | 1,4-butanedisulfonyl chloride | C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | C4H8Cl2O4S2
product | 1,4-butanedisulfonylchloride 1,6-diaminohexane | C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl.NCCCCCCN | InChI=1S/C6H16N2.C4H8Cl2O4S2/c7-5-3-1-2-4-6-8;5-11(7,8)3-1-2-4-12(6,9)10/h1-8H2;1-4H2
